US08133882B2
To a 4 ml DMSO solution of 310 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(4-hydroxybutyl)quinolin-4(1H)-one was added 0.7 ml of triethylamine and 620 mg of a sulfur trioxide pyridine complex, followed by stirring at room temperature for 24 hours. By adding 1 M hydrochloric acid and water, the insoluble materials were collected by filtration to obtain 290 mg of 4-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]butanal.

reactant | DMSO | 4 ml | CS(=O)C | C2H6OS
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(4-hydroxybutyl)quinolin-4(1H)-one | 310 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CCCCO)=O)F | C24H33FN2O2
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
product | 4-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]butanal | 290 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CCCC=O)=O)F | C24H31FN2O2
